* =============================================================
* Testbench: 16-bit Leading Zero Counter (LZC16)
* Process : SkyWater SKY130 (sky130_fd_sc_hd)
* Stimulus : Toggle IN[0] while IN[15:1]=0
* This forces worst-case propagation through all stages
* Measure  : propagation delay from IN[0] 50% to COUNT[4] 50%
* =============================================================

* ---- Include PDK libs ----------------------------------------
.lib $PDK_ROOT/$PDK/libs.tech/combined/sky130.lib.spice tt

* ---- Include DUT ---------------------------------------------
.include $PWD/../magic/lzc16.rcx.spice

* ---- Global supply ------------------------------------------
.global VDD VSS
Vvdd VDD 0 DC 1.8
Vvss VSS 0 DC 0

* ---- Stimulus sources ----------------------------------------
* IN[15:1] = 0 (static)
V_in1  IN1  0 DC 0
V_in2  IN2  0 DC 0

V_in4  IN4  0 DC 0
V_in5  IN5  0 DC 0
V_in6  IN6  0 DC 0
V_in7  IN7  0 DC 0
V_in8  IN8  0 DC 0
V_in9  IN9  0 DC 0
V_in10 IN10 0 DC 0
V_in11 IN11 0 DC 0
V_in12 IN12 0 DC 0
V_in13 IN13 0 DC 0
V_in14 IN14 0 DC 0
V_in15 IN15 0 DC 0

* IN[0]: step low -> high at t=2ns, then high -> low at t=12ns
* Sử dụng cấu trúc PWL chuẩn với sườn dốc 50ps giống như mẫu Adder
Vin3 IN3 0 PWL(
+ 0ns    0
+ 2ns    0
+ 2.05ns 1.8
+ 12ns   1.8
+ 12.05ns 0
+ 20ns   0
+ )

* ---- DUT: LZC16 ---------------------------------------------
* Thứ tự các chân dưới đây được ánh xạ CHÍNH XÁC 100% theo dòng:
* .subckt lzc16 VDD GND A[15]...A[0] Y[0] Y[1] Y[4] Y[3] Y[2]
Xlzc16 VDD GND
+ IN15 IN14 IN13 IN12 IN11 IN10 IN9 IN8 IN7 IN6 IN5
+ IN4 IN3 IN2 IN1 IN0 COUNT0 COUNT1 COUNT4 COUNT3 COUNT2
+ lzc16

* ---- Load capacitance (4fF typical for 1 cell) --------------
Cload_c0 COUNT0 GND 0.01pF
Cload_c1 COUNT1 GND 0.01pF
Cload_c2 COUNT2 GND 0.01pF
Cload_c3 COUNT3 GND 0.01pF
Cload_c4 COUNT4 GND 0.01pF

* ---- Batch mode ---------------------------------------------
.tran 1ps 20ns
.save v(IN3) v(COUNT0) v(COUNT1) v(COUNT2) v(COUNT3) v(COUNT4)

.end